US06498169B1
Synthesis of 4-[N-(3-Methylthiophenyl)-N-[4-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(3-Methylthioanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (143 mg) and 4-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a dihydrochloride.

reactant | 4-(3-Methylthioanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 143 mg | CSC=1C=C(NC2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C27H33N3O3S
reactant | 4-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(CCl)C=C1 | C16H17ClO3
product | 4-[N-(3-Methylthiophenyl)-N-[4-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.CSC=1C=C(C=CC1)N(CC1=CC=C(C=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H49N3O6S.2ClH/c1-47-38-22-32(23-39(48-2)42(38)51-5)31-13-11-29(12-14-31)28-46(35-9-8-10-36(26-35)53-7)34-16-19-45(20-17-34)27-30-15-18-44-37(21-30)33-24-40(49-3)43(52-6)41(25-33)50-4;;/h8-15,18,21-26,34H,16-17,19-20,27-28H2,1-7H3;2*1H
